US08664241B2
A solution of (5-bromopyridin-3-yl)methanamine (LIV) (1.30 g, 5.8 mmol, 1.0 eq), cyclopentanecarbaldehyde (0.57 g, 5.8 mmol, 1.0 eq) and TEA (0.60 g, 5.8 mmol, 1.0 eq) in MeOH (15 mL) was stirred at room temperature for 2 h. Then NaBH3CN (1.98 g, 34.6 mmol, 6.0 eq) was added and the mixture was stirred at the same temperature for another 3 h. The solvent was removed under reduced pressure and the residue was diluted in water (20 mL) and extracted with DCM (10 mL×3), combined organic layers were dried over MgSO4 and concentrated in vacuo to give 1-(5-bromopyridin-3-yl)-N-(cyclopentylmethyl)methanamine (LV) (1.23 g, 4.57 mmol, 79.3% yield) as a brown oil. ESIMS found for C12H17BrN2 m/z 269 (M+H).

reactant | (5-bromopyridin-3-yl)methanamine | 5.8 mmol, 1.30 g, 1.0 eq | BrC=1C=C(C=NC1)CN | C6H7BrN2
reactant | cyclopentanecarbaldehyde | 5.8 mmol, 0.57 g, 1.0 eq | C1(CCCC1)C=O | C6H10O
reactant | NaBH3CN | 34.6 mmol, 1.98 g, 6.0 eq | [BH3-]C#N.[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 1-(5-bromopyridin-3-yl)-N-(cyclopentylmethyl)methanamine | 4.57 mmol, 1.23 g, 79.3% yield | BrC=1C=C(C=NC1)CNCC1CCCC1 | C12H17BrN2
